US07514448B2
A mixture of 2-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazole-4-carboxylic acid (3 g, 12.24 mmol), diphenylphosphoryl azide (4.4 g, 15.91 mmol) and Et3N (4 mL) in tertiary butanol (100 mL) was refluxed for 2 h and cooled to room temperature and concentrated. The residue was dissolved in EtOAC (10 mL) and insoluble material was filtered. The filtrate was chromatographed on silica gel (Biotage) eluting with EtOAc/hexane to give [2-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-4-yl]-carbamic acid tert-butyl ester as a off white solid (1.8 g, 46%); Mass Spec; MS 317 (M+1); 1H NMR(DMSO-d6,500 MHz) 12.19 (s,1H), 10.15(s,1H), 8.57(dd,1H),8.32(dd,1H), 8.12(d,1H), 7.23(dd,1H), 7.03(s,1H), 1.49(s,9H).

reactant | 2-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazole-4-carboxylic acid | 12.24 mmol, 3 g | N1C=C(C=2C1=NC=CC2)C=2SC=C(N2)C(=O)O | C11H7N3O2S
reactant | diphenylphosphoryl azide | 15.91 mmol, 4.4 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Et3N | 4 mL | CCN(CC)CC | C6H15N
reactant | tertiary butanol | 100 mL | C(C)(C)(C)O | C4H10O
product | [2-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1N=C(SC1)C1=CNC2=NC=CC=C21)=O | C15H16N4O2S
